OpenCircuit factory test: MMBT3906 fT
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.onsemi.com/pdf/datasheet/mmbt3906lt1-d.pdf
* Revision: October 2024 Rev. 14
* Fit: native ngspice-46 in scipy.optimize.least_squares, diff_step=1e-4
.model OC_ONSEMI_MMBT3906 PNP(IS=8.2795543286e-14 NF=1.0000000000e0 BF=1.9999999986e3 IKF=8.5369997995e-3 ISE=4.2059216751e-13 NE=1.5644774880e0 VAF=1.0000000000e2 BR=4.0000000000e0 RB=3.9259797496e1 RE=1.0000005986e-4 RC=1.3427918311e0 CJE=1.1836139835e-11 VJE=7.5000000000e-1 MJE=3.3000000000e-1 CJC=7.2229703317e-12 VJC=7.5000000000e-1 MJC=3.3000000000e-1 XCJC=1.0000000000e0 TF=4.3869175971e-10 TR=0 FC=0.5 EG=1.11 XTI=3 TNOM=27)
.temp 25

VCC c 0 DC -20
IBDC 0 b DC -0.0001
IAC 0 b AC 1
Q1 c b 0 OC_ONSEMI_MMBT3906
.ac dec 20 1Meg 10G
.end
